US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(tert-butoxycarbonylmethoxymethyl)androsta-5,7,16-triene
A solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(hydroxymethyl)androsta-5,7,16-triene (1.0 g, 1.84 mmol), sodium hydride (60% in oil, 220 mg, 5.50 mmol), 15-crown-5 (400 mg, 1.82 mmol) and t-butyl bromoacetate (0.55 ml, 3.69 mmol) in tetrahydrofuran (20 ml) was refluxed under heating for 1 hour and 15 min. The reaction solution was diluted with ethyl acetate and filtered with CELITE. Under cooling with ice, water was added dropwise to the filtrate which was then washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, evaporated under reduced pressure to remove the solvent and the thus obtained residue was purified by column chromatography (hexane:ethyl acetate=20:1) to give the titled compound (946.6 mg, 78%) as a colorless oil.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(hydroxymethyl)androsta-5,7,16-triene | 1.84 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H56O3Si2
reactant | sodium hydride | 5.50 mmol, 220 mg | [H-].[Na+]
reactant | 15-crown-5 | 1.82 mmol, 400 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | t-butyl bromoacetate | 3.69 mmol, 0.55 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(tert-butoxycarbonylmethoxymethyl)androsta-5,7,16-triene | 946.6 mg, 78% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCC(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C38H66O5Si2
